US06956042B2
6-Benzyl-2,6-diazaspiro[4.4]nonan-1-one
Raney nickel (˜2 g) was added to a solution of ethyl 2-(2-nitroethyl)-1-benzylpyrrolidine-2-carboxylate (6.00 g, 19.6 mmol) in absolute ethanol (200 mL) in a hydrogenation bottle. The mixture was shaken for 12 h under a hydrogen atmosphere (50 psi) in a Parr hydrogenation apparatus, filtered through a Celite pad and concentrated by rotary evaporation. GCMS analysis indicated that the hydrogenation product was a mixture of the primary amine and the lactam resulting from cyclization of the amine onto the ester. The mixture was dissolved in toluene (150 mL). A catalytic amount of p-toluenesulfonic acid (˜30 mg) was added and the mixture was heated at reflux under a nitrogen atmosphere for 24 h. Upon evaporation of the toluene, the residue (now entirely lactam, by GCMS) crystallized to give 4.20 g (93.1%) of tan solid (mp 152-153° C.).

reactant | ethyl 2-(2-nitroethyl)-1-benzylpyrrolidine-2-carboxylate | 19.6 mmol, 6.00 g | [N+](=O)([O-])CCC1(N(CCC1)CC1=CC=CC=C1)C(=O)OCC | C16H22N2O4
catalyst | Raney nickel | ˜2 g | [Ni] | Ni
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 6-Benzyl-2,6-diazaspiro[4.4]nonan-1-one | 4.20 g, 93.1% | C(C1=CC=CC=C1)N1C2(CCNC2=O)CCC1 | C14H18N2O
